US05262539
3.5 g of 1-nitronaphthalene and 3.7 g of benzthiazyl-2-sulphenamide, dissolved in 30 ml of dimethylformamide, are added dropwise to a stirred solution of 6 g of potassium tert.-butylate in 60 ml of dimethylformamide, while the temperature is kept at 20° to 25° C. After stirring further for 15 minutes the mixture is poured into 400 ml of a saturated aqueous ammonium chloride solution and then treated further as in Example 1. 1-Nitro-2-naphthylamine with a melting point of 123° to 125° C. is obtained in a yield of 2.9 g (72%). In addition, about 8% of 4-nitro-1-naphthylamine are obtained.

reactant | 1-nitronaphthalene | 3.5 g | [N+](=O)([O-])C1=CC=CC2=CC=CC=C12 | C10H7NO2
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-Nitro-2-naphthylamine | [N+](=O)([O-])C1=C(C=CC2=CC=CC=C12)N | C10H8N2O2
